US07923456B2
5-(2-Fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid ((S)-2-hydroxy-propoxy)-amide
To a solution of 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid (85 mg, 0.21 mmol) in anhydrous DMF (1.0 mL) was added (S)-1-aminooxy-propan-2-ol hydrochloride (32.7 mg, 0.26 mmol, 1.2 eq.), DIPEA (0.13 mL, 0.77 mmol, 3.6 eq.), HOBt (36.0 mg, 0.26 mmol, 1.2 eq.) and EDCI (51.2 mg, 0.26 mmol, 1.2 eq.), and the reaction mixture was stirred at ambient temperature under N2 for 16 hours. The reaction mixture was poured into ethyl acetate, and the organic layer was washed with a saturated solution of sodium bicarbonate, 50% brine and brine. The organic phase was isolated, dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0% to 40%, methanol in ethyl acetate) to give an oil. Crystallization from dichloromethane—ether—hexane afforded the title compound as a yellow solid (10.7 mg, 10.6%). 1H NMR (MeOD, 400 MHz) δ ppm 8.76 (s, 1H), 7.92 (s, 1H), 7.86 (s, 1H), 7.64 (dd, J=10.13, 1.84 Hz, 1H), 7.55-7.50 (m, 1H), 6.72 (t, J=8.49 Hz, 1H); LCMS (method E1): RT=5.14 min, [M+H]+=472.

reactant | 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid | 0.21 mmol, 85 mg | FC1=C(C=CC(=C1)I)NC1=C(N=CC=2N1C=NC2)C(=O)O | C13H8FIN4O2
reactant | (S)-1-aminooxy-propan-2-ol hydrochloride | 0.26 mmol, 32.7 mg, 1.2 eq. | Cl.NOC[C@H](C)O
reactant | DIPEA | 0.77 mmol, 0.13 mL, 3.6 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.26 mmol, 36.0 mg, 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.26 mmol, 51.2 mg, 1.2 eq. | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-Fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid ((S)-2-hydroxy-propoxy)-amide | 10.7 mg, 10.6% | O[C@H](CONC(=O)C=1N=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2)C | C16H15FIN5O3
